US06762205B1
The procedure of Preparation Example 8 was repeated, except that 203 mg of 4-[N-(4-tert-butyldimethylsilyloxybenzyl)amino]benzonitrile was used in place of 4-[N-(4-benzyloxybenzyl)amino]phenol and 110 mg of 3-thiophenecarbonyl chloride was used in place of methanesulfonyl chloride. The resulting mixture was stirred at room temperature for 19 hours. After the reaction mixture was poured into dilute hydrochloric acid, the product was extracted with ethyl acetate. After the extract was successively washed with a saturated aqueous solution of sodium hydrogen carbonate and a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting crude product was purified by TLC (using a 3:1 mixture of hexane and ethyl acetate as the developing solvent) to obtain 191 mg of N-(4-tert-butyl-dimethylsilyloxybenzyl)-N-(4-cyanophenyl)-3thiophenecarboxamide.

reactant | 4-[N-(4-tert-butyldimethylsilyloxybenzyl)amino]benzonitrile | 203 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CNC2=CC=C(C#N)C=C2)C=C1 | C20H26N2OSi
reactant | 3-thiophenecarbonyl chloride | 110 mg | S1C=C(C=C1)C(=O)Cl | C5H3ClOS
reactant | hydrochloric acid | Cl | ClH
product | N-(4-tert-butyl-dimethylsilyloxybenzyl)-N-(4-cyanophenyl)-3thiophenecarboxamide | 191 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(CN(C(=O)C2=CSC=C2)C2=CC=C(C=C2)C#N)C=C1 | C25H28N2O2SSi
